US06133303
2-(5-Chloro-thiophen-2-ylmethylene)-6-(2-imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one
According to the method of Example 4, 6-(2-imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one (0.25 g, 0.98 mmol) was reacted with 5-chlorothiophene-2-carboxaldehyde (0.215 g, 1.47 mmol) in 5 mL of 4% KOH in EtOH to afford 0.293 g (77%) of the title compound as a coarse cream solid, mp 143-144° C.: APCI-MS m/e 385.5 (M+ +1); 1H-NMR (CDCl3): δ 8.03 (1H, d, J=8.5 Hz), 7.81 (1H, s), 7.65 (1H, s), 7.10 (1H, d, J=3.9 Hz), 7.06 (1H, s), 7.02 (1H, s), 6.91 (1H, d, J=3.9 Hz), 6.80 (1H, dd, J=8.5 Hz, J=2.5 Hz), 6.66 (1H, d, J=2.5 Hz), 4.36 (2H, m), 4.26 (2H, m), 3.05 (2H, m), 2.93 (2H, m).

reactant | 6-(2-imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one | 0.98 mmol, 0.25 g | N1(C=NC=C1)CCOC=1C=C2CCCC(C2=CC1)=O | C15H16N2O2
reactant | 5-chlorothiophene-2-carboxaldehyde | 1.47 mmol, 0.215 g | ClC1=CC=C(S1)C=O | C5H3ClOS
solvent | KOH | 5 mL | [OH-].[K+]
solvent | EtOH | CCO | C2H6O
product | 2-(5-Chloro-thiophen-2-ylmethylene)-6-(2-imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one | 0.293 g, 77% | ClC1=CC=C(S1)C=C1C(C2=CC=C(C=C2CC1)OCCN1C=NC=C1)=O | C20H17ClN2O2S
